US09193707B2
6. Synthesis of (2Z)-3-[2-(benzyloxy)-3-methylphenyl]prop-2-enoyl azide
Into a 500-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed (2Z)-3-[2-(benzyloxy)-3-methylphenyl]prop-2-enoic acid (20 g, 74.54 mmol, 1.00 equiv), toluene (300 mL) and diphenylphosphoryl azide (25 g, 90.84 mmol, 1.20 equiv). This was followed by the addition of DBU (14 g, 91.96 mmol, 1.20 equiv) dropwise with stirring at 0-10° C. The resulting solution was stirred for 1 h at 0-10° C. in a water/ice bath. The resulting solution was diluted with 1 L of ethyl acetate. The resulting mixture was washed with 2×800 mL of water. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:40). This resulted in 13 g (59%) of (2Z)-3-[2-(benzyloxy)-3-methylphenyl]prop-2-enoyl azide as a white solid. Rf: 0.44 (in ethyl acetate:petroleum ether=1:5).

reactant | (2Z)-3-[2-(benzyloxy)-3-methylphenyl]prop-2-enoic acid | 74.54 mmol, 20 g, 1.00 equiv | C(C1=CC=CC=C1)OC1=C(C=CC=C1C)\C=C/C(=O)O | C17H16O3
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
reactant | diphenylphosphoryl azide | 90.84 mmol, 25 g, 1.20 equiv | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 91.96 mmol, 14 g, 1.20 equiv | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | (2Z)-3-[2-(benzyloxy)-3-methylphenyl]prop-2-enoyl azide | C(C1=CC=CC=C1)OC1=C(C=CC=C1C)\C=C/C(=O)N=[N+]=[N-] | C17H15N3O2
